US06673799B1
(2S,5R)-4-(4-Benzyl-2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile
A 15 ml portion of pyridine solution containing 0.63 g of (2R,5S)-1-benzyl-2,5-dimethylpiperazine was mixed with 0.7 g of 4-fluoro-2-trifluoromethylbenzonitrile and stirred at 90° C. for 2 days. The reaction mixture was concentrated and the residue was purified by a silica gel column chromatography to obtain the title compound from n-hexane-ethyl acetate (9:2, v/v) as a white solid.

reactant | (2R,5S)-1-benzyl-2,5-dimethylpiperazine | 0.63 g | C(C1=CC=CC=C1)N1[C@@H](CN[C@H](C1)C)C | C13H20N2
reactant | 4-fluoro-2-trifluoromethylbenzonitrile | 0.7 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (2S,5R)-4-(4-Benzyl-2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | C(C1=CC=CC=C1)N1C[C@@H](N(C[C@H]1C)C1=CC(=C(C#N)C=C1)C(F)(F)F)C | C21H22F3N3
